US09212348B2
Synthesis of ethyl 3-(dimethylamino)-2-(4-hexylphenyl)acrylate
0.50 g (2.0 mmol) of ethyl 2-(4-hexylphenyl)acetate was dissolved in 7 mL of N,N-dimethylformamide, mixed with 0.31 mL (2.3 mmol) of N,N-dimethylformamide dimethyl acetal and stirred at 60° C. for 18 hours. After the stirring, the reaction mixture was further mixed with 0.65 mL (4.9 mmol) of N,N-dimethylformamide dimethyl acetal and stirred at 60° C. for 24 hours. After completion of the reaction, the reaction mixture was diluted with diethyl ether and washed with saturated aqueous sodium hydrogen carbonate and with saturated aqueous sodium chloride successively. The organic layer was dried over anhydrous sodium sulfate and filtered, and the filtrate was concentrated under reduced pressure to give the desired product as a brown liquid.

reactant | ethyl 2-(4-hexylphenyl)acetate | 2.0 mmol, 0.50 g | C(CCCCC)C1=CC=C(C=C1)CC(=O)OCC | C16H24O2
reactant | N,N-dimethylformamide dimethyl acetal | 2.3 mmol, 0.31 mL | COC(N(C)C)OC | C5H13NO2
reactant | N,N-dimethylformamide dimethyl acetal | 4.9 mmol, 0.65 mL | COC(N(C)C)OC | C5H13NO2
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 3-(dimethylamino)-2-(4-hexylphenyl)acrylate | CN(C=C(C(=O)OCC)C1=CC=C(C=C1)CCCCCC)C | C19H29NO2
